US06787539B2
To a solution of 0.33 g (0.98 mmol) 4-o-tolyloxy-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester in 15 ml ethanol 3.68 ml 0.4 N NaOH was added and the resulting solution was stirred for 2 hrs at RT. The pH of the solution was adjusted to 4 with 1N HCl. The aqueous solution was extracted three times with CH2Cl2. The combined organic phases were dried (Na2SO4), filtered and evaporated. The resulting solid was triturated twice with diethyl ether, filtered off and dried to give 0.26 g (85%) 4-o-tolyloxy-[2,2′]bipyrimidinyl-5-carboxylic acid as a light yellow solid, MS (ISN): 307.3 (M−H)−.

reactant | 4-o-tolyloxy-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester | 0.98 mmol, 0.33 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)OC1=C(C=CC=C1)C | C18H16N4O3
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 0.4 N, 15 ml | C(C)O | C2H6O
product | 4-o-tolyloxy-[2,2′]bipyrimidinyl-5-carboxylic acid | 0.26 g, 85% | C1(=C(C=CC=C1)OC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1)C | C16H12N4O3
